US08258130B2
To a solution of 3-amino-2-chloropyridine (5 g 38.9 mmol) in THF (35 mL) is added 2 M NaHMDS in THF (38.9 mL, 77.8 mmol). After stirring at rt for 15 min, BOC2O (7.7 g, 35.6 mmol) in THF (20 mL) is added in one portion and then stirred for 5 h at rt. 0.1% aqueous HCl is added. The mixture is extracted with EtOAc. The organic layer is dried (Na2SO4), filtered and concentrated. The residue is chromatographed through silica gel eluting with 0-50% EtOAc in heptane to afford (2-chloro-pyridin-3-yl)-carbamic acid tert-butyl ester (7.18 g, 89%). MS: 229 (M+H); 1H NMR (300 MHz, CDCl3): δ 8.52 (d, 1H), 8.05 (dd, 1H), 7.23 (dd, 1H), 7.02 (broad s, 1H), 1.55 (s, 9H)).

reactant | 3-amino-2-chloropyridine | 38.9 mmol, 5 g | NC=1C(=NC=CC1)Cl | C5H5ClN2
reactant | NaHMDS | 2 M | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | BOC2O | 35.6 mmol, 7.7 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | HCl | Cl | ClH
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 77.8 mmol, 38.9 mL | C1CCOC1 | C4H8O
product | (2-chloro-pyridin-3-yl)-carbamic acid tert-butyl ester | 7.18 g, 89% | C(C)(C)(C)OC(NC=1C(=NC=CC1)Cl)=O | C10H13ClN2O2
